US05051422
N-[4-[[(4-Phenylpiperazin-2-yl)methyl]amino]phenyl]methanesulfonamide
In a manner similar to Example 1, react N-[4-[[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]amino]phenyl]methanesulfonamide hydrochloride (2.05 g, 4.22 mmol) with H2 over 10% palladium on activated carbon (0.19 g). Remove the catalyst by filtration and evaporate the solvent. Dissolve the residue in methanol and adjust thepH to 8 with 4M aqueous NaOH. Remove the solvent in vacuo. Triturate the residue with methylene chloride. Remove the solid by filtration. Recrystallize the residue from methylene chloride to obtain the title compound.

reactant | N-[4-[[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]amino]phenyl]methanesulfonamide hydrochloride | 4.22 mmol, 2.05 g | Cl.C1(=CC=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CNC1=CC=C(C=C1)NS(=O)(=O)C
catalyst | palladium on activated carbon | 0.19 g | [Pd] | Pd
product | N-[4-[[(4-Phenylpiperazin-2-yl)methyl]amino]phenyl]methanesulfonamide | C1(=CC=CC=C1)N1CC(NCC1)CNC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N4O2S
